US07989461B2
To a solution of 5-amino-6-methylphthalazin-1(2H)-one (7.57 g, 43 mmol) in conc. aqueous HCl (250 ml) charged to a 500 mL round bottom, sodium nitrite (3.6 g, 52 mmol) in 50 mL water was added at 0° C. The mixture was then allowed to stir for 90 min at that temperature. Then, KI (22 g, 130 mmol) in water (50 ml) was added. The reaction mixture was stirred at 70° C. for 2 hrs, forming a dark precipitate on initial addition of iodide. Upon cooling to ambient temperature, the dark ppt was collected by filtration and stirred in a solution of saturated sodium sulfite, forming a light yellow precipitate. This precipitate was collected by filtration and washed with excess water. The light yellow solid was dried in a vacuum oven overnight to give 5-iodo-6-methylphthalazin-1(2H)-one (8.5 g, 69% yield. MS (M+H)+ 287.

reactant | 5-amino-6-methylphthalazin-1(2H)-one | 43 mmol, 7.57 g | NC1=C2C=NNC(C2=CC=C1C)=O | C9H9N3O
reactant | sodium nitrite | 52 mmol, 3.6 g | N(=O)[O-].[Na+]
reactant | iodide | [I-]
solvent | HCl | 250 ml | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 50 ml | O | H2O
product | 5-iodo-6-methylphthalazin-1(2H)-one | 69% yield | IC1=C2C=NNC(C2=CC=C1C)=O | C9H7IN2O
